US06911463B2
3-[3-(2-tert-Butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-propionic acid methyl ester is prepared from 3-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylic acid methyl ester as described below for the preparation of {2-[7-(2-methanesulfonyl-ethyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester (80%). FDMS m/e=375.2 (M++1).

reactant | 3-[3-(2-tert-butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-acrylic acid methyl ester | COC(C=CC=1C=CC=C2C(=CNC12)CC(C)(C)NC(=O)OC(C)(C)C)=O | C21H28N2O4
reactant | {2-[7-(2-methanesulfonyl-ethyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CCS(=O)(=O)C)(C)C)=O | C20H30N2O4S
product | 3-[3-(2-tert-Butoxycarbonylamino-2-methyl-propyl)-1H-indol-7-yl]-propionic acid methyl ester | COC(CCC=1C=CC=C2C(=CNC12)CC(C)(C)NC(=O)OC(C)(C)C)=O | C21H30N2O4
